US05639903
6.21 g of methylmethylsulfinylmethyl sulfide and 17.10 g of benzyl bromide were mixed, and were then allowed to stand in reaction at 50° C. for five months. The compound obtained was washed with ether, dried at 40° C. under reduced pressure, affording a precursor, methylsulfinylmethylbenzylmethyl sulfonium bromide. Yield: 26%.

reactant | methylmethylsulfinylmethyl sulfide | 6.21 g | CC(S(=O)C)SC(C)S(=O)C | C6H14O2S3
reactant | benzyl bromide | 17.10 g | C(C1=CC=CC=C1)Br | C7H7Br
product | methylsulfinylmethylbenzylmethyl sulfonium bromide | Yield: 26% | [Br-].CS(=O)C[SH+]CCC1=CC=CC=C1 | InChI=1S/C10H14OS2.BrH/c1-13(11)9-12-8-7-10-5-3-2-4-6-10;/h2-6H,7-9H2,1H3;1H
